US04472305
Condensation of BocPheOPFP (8.63 g.) and MePHeOMe (5.50 g.) by the active ester method gave BocPhe-MePheOMe in 95% yield. De-t-butoxycarbonylation of BocPhe-MePheOMe using hydrogen chloride in ethyl acetate gave HPhe-MePHeOMe in 48% yield. Condensation of BocProOH (0.71 g.) and HPhe-MePheOMe (1.13 g.) by the mixed anhydride method using diphenylphosphinic chloride gave BocPro-Phe-MePheOMe in 73% yield. Hydrazinolysis of BocPro-Phe-MePheOMe (3.10 g.) gave BocPro-Phe-MePheNHNH2 in 84% yield.

reactant | BocProOH | 0.71 g | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | HPhe-MePheOMe | 1.13 g | N[C@@H](CCC1=CC=CC=C1)C(=O)N([C@@H](CC1=CC=CC=C1)C(=O)OC)C | C21H26N2O3
reactant | diphenylphosphinic chloride | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
product | BocPro-Phe-MePheOMe | 73% yield | N1([C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N([C@@H](CC2=CC=CC=C2)C(=O)OC)C)CCC1)C(=O)OC(C)(C)C | C30H39N3O6
